US05039814
2-Bromo-1-(tetrazol-5-yl)benzene
To (tetrazol-5-yl)benzene (0.29 g) in THF (10 ml) at -25° C. was slowly added n-butyllithium (2 mL, 2.5M in hexanes) while maintaining the reaction temperature below -15° C. When the addition was over in 10 to 15 minutes, the mixture was aged at -10° C. for 30 minutes. The reaction mixture was cooled to -60° C. and bromine (0.2 mL) was added dropwise. To the reaction mixture was added aqueous 10% sodium sulfite (5 mL). An HPLC assay showed a starting material/products ratio of 3.5/96.5. The product was precipitated by the addition of water (20 mL) and acidification with 2N HCl to pH 2. The mixture was aged at 0° C. for 1 hour and filtered. The yield was 0.427 g (95%).

reactant | (tetrazol-5-yl)benzene | 0.29 g | N1N=NN=C1C1=CC=CC=C1 | C7H6N4
reactant | n-butyllithium | 2.5M, 2 mL | C(CCC)[Li]
reactant | bromine | 0.2 mL | BrBr | Br2
reactant | sodium sulfite | 5 mL | S(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-Bromo-1-(tetrazol-5-yl)benzene | BrC1=C(C=CC=C1)C1=NN=NN1 | C7H5BrN4
